US05834506
(S) 3-(4-Amino-2-tert-butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 9 using 3.0 g (10.86 mmol) of (S)-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one (prepared in Example WWWW), 3.98 g (11.40 mmol) of toluene-4-thiosulfonic acid S-(4-amino-2-tert-butyl-5-methyl-phenyl) ester (prepared in Example HHHH), 4.50 g of anhydrous K2CO3 and 54 mL DMF. The reaction was stirred at room temperature overnight. The reaction was quenched with saturated NH4Cl solution and extracted with EtOAc. The organic phase was dried over MgSO4 and concentrated. The crude material was purified by flash silica gel chromatography, eluting with EtOAc, to give the title compound, m.p. 147°-149° C. (dec.). 1H-NMR (DMSO-d6) δ 0.89 (d, 3 H), 0.93 (d, 3 H), 1.42 (s, 9 H), 1.71 (s. 3 H), 1.85-1.93 (m, 2 H), 2.15 (m, 1 H), 2.41-2.50 (m, 2 H, partially obscured by DMSO), 2.67 (d of ABX q, 1 H), 2.89 (d of ABX q, 1 H), 6.55 (s, 1 H), 6.60 (s, 1 H), 6.64 (d, 2H), 6.93 (d, 2H), 9.13 (br s, 1 H).

reactant | (S)-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one | 10.86 mmol, 3.0 g | OC1=CC(O[C@@](C1)(C(C)C)CCC1=CC=C(C=C1)O)=O | C16H20O4
reactant | toluene-4-thiosulfonic acid S-(4-amino-2-tert-butyl-5-methyl-phenyl) ester | 11.40 mmol, 3.98 g | NC1=CC(=C(C=C1C)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C18H23NO2S2
reactant | K2CO3 | 4.50 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 54 mL | CN(C)C=O | C3H7NO
product | 3-(4-Amino-2-tert-butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one | NC1=CC(=C(C=C1C)SC=1C(OC(CC1O)(C(C)C)CCC1=CC=C(C=C1)O)=O)C(C)(C)C | C27H35NO4S
